US07189741B2
C. 5-[4-(6-fluoro-1-thiophen-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 0.12 g (0.34 mmol) of 6-fluoro-3-piperidin-4-yl-1-thiophen-3-ylmethyl-1H-indole and 0.11 g (0.44 mmol) of 5-bromomethyl-2-methoxy-benzoic acid ethyl ester. The crude mixture was purified by HPLC-MS using a C-18 column.

reactant | 6-fluoro-3-piperidin-4-yl-1-thiophen-3-ylmethyl-1H-indole | 0.34 mmol, 0.12 g | FC1=CC=C2C(=CN(C2=C1)CC1=CSC=C1)C1CCNCC1 | C18H19FN2S
reactant | 5-bromomethyl-2-methoxy-benzoic acid ethyl ester | 0.44 mmol, 0.11 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
product | 5-[4-(6-fluoro-1-thiophen-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid | FC1=CC=C2C(=CN(C2=C1)CC1=CSC=C1)C1CCN(CC1)CC=1C=CC(=C(C(=O)O)C1)OC | C27H27FN2O3S
